US05223499
Step 2: Preparation of 2-butyl-6-[(1-oxopentyl)amino]-imidazo[4,5-b]pyridine
A mixture of 2-amino-3,5-dinitropyridine (5.32 g, 28.9 mmol), THF (100 mL), methanol (250 mL) and Raney-nickel (3 mL of a 1:1 suspension in H2O) was stirred under H2 (1 atm.) was stirred for 5 h. The reaction mixture was quickly filtered into a receiving flask containing 5 mL of conc. HCl and the solvent was removed in vacuo at r. t. To this crude 2,3,5-triaminopyridine.HCl was added valeric acid (9.43 mL, 86.7 mmol) and polyphosphoric acid (100 mL) and this mixture was heated to 95° C. for 6 h. The warmed mixture was poured into stirred ice-H2O (200 mL) and this mixture was cooled and neutralized (to pH 4) by the addition of conc. NH4OH. Extraction with EtOAc(3×75 mL), concentration, and purification (SiO2, 5% MeOH/EtOAc) gave the title compound as solid.

reactant | 2-amino-3,5-dinitropyridine | 28.9 mmol, 5.32 g | NC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H4N4O4
reactant | HCl | Cl | ClH
reactant | valeric acid | 86.7 mmol, 9.43 mL | C(CCCC)(=O)O | C5H10O2
reactant | NH4OH | [NH4+].[OH-]
solvent | H2O | O | H2O
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | 250 mL | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-butyl-6-[(1-oxopentyl)amino]-imidazo[4,5-b]pyridine | C(CCC)C=1NC=2C(=NC=C(C2)NC(CCCC)=O)N1 | C15H22N4O
